US03978123
Preparation of N-(2-fluorophenyl)-N-methoxymethyl-N'-methyl urea
To a stirred solution of 8.4 g. (0.05 mol) of N-(2-fluorophenyl)-N'-methyl urea dissolved in 200 ml. of 1,2-dimethoxyethane there was added 2.4 g. of a 50% dispersion of sodium hydride (0.05 mol) in mineral oil. The resulting mixture was stirred for 15 minutes more. Then 4.2 g. (0.05 mol) of chloromethyl methyl ether was added dropwise. After all ether was added, the mixture was stirred for 16 hours. At the end of this time it was filtered through a layer of magnesium sulfate. The filtrate was evaporated to give an oily residue which crystallized upon standing. These crystals were washed with hexane and then dried to give 6.2 g. of product, melting point 57°-59°C. Analysis: Calculated for C10H13FN2O2 : F, 8.96%; Found: F, 8.97%. The infrared spectrum showed strong adsorptions at 6.1, 6.6, 6.7, 6.9, 7.8, 9.1 and 13.5μ. The NMR spectra was consistent with the assigned structure.

reactant | N-(2-fluorophenyl)-N'-methyl urea | 0.05 mol | FC1=C(C=CC=C1)NC(=O)NC | C8H9FN2O
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | sodium hydride | 0.05 mol | [H-].[Na+]
reactant | chloromethyl methyl ether | 0.05 mol | COCCl | C2H5ClO
solvent | ether | CCOCC | C4H10O
product | N-(2-fluorophenyl)-N-methoxymethyl-N'-methyl urea | FC1=C(C=CC=C1)N(C(=O)NC)COC | C10H13FN2O2
